US04963543
To a solution of (2S,4R)-4-t-butyldimethylsilyloxy-2-(difluoromethyl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.36 g) in methanol (30 ml) was added conc. hydrochloric acid (0.47 ml) at ambient temperature and the mixture was stirred at the same temperature for 1 hour. The reaction mixture was concentrated under reduced pressure. The resulting residue was dissolved in ethyl acetate (50 ml). The solution was washed in turn with saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give (2S,4R)-2-(difluoromethyl)thiomethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.03 g).

reactant | (2S,4R)-4-t-butyldimethylsilyloxy-2-(difluoromethyl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.36 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CSC(F)F | C20H30F2N2O5SSi
reactant | hydrochloric acid | 0.47 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | (2S,4R)-2-(difluoromethyl)thiomethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.03 g | FC(SC[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])F | C14H16F2N2O5S
